US07279478B2
Step 1 4-(4-Bromophenyl)morpholine
To a solution of of morpholine (0.85 mmol, 739 mg) in dioxane (12 mL) was added 1,4-dibromobenzene (21.2 mmol, 5 g), 2-(di-t-butylphosphine)biphenyl (1.02 mmol, 304 mg), potassium t-butoxide (25.5 mmol, 2.47 g) and Pd2(dba)3 (0.254 mmol, 233 mg) The mixture was degassed under a stream of nitrogen and then heated to reflux for 20 h. The mixture was diluted with EtOAc and washed with water and brine. The organic extract was concentrated under reduced pressure and the residue was chromatographed to give the desired product.

reactant | morpholine | 0.85 mmol, 739 mg | N1CCOCC1 | C4H9NO
reactant | 1,4-dibromobenzene | 21.2 mmol, 5 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | potassium t-butoxide | 25.5 mmol, 2.47 g | CC(C)([O-])C.[K+]
solvent | dioxane | 12 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.254 mmol, 233 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(4-Bromophenyl)morpholine | BrC1=CC=C(C=C1)N1CCOCC1 | C10H12BrNO
